US08071586B2
B) (rac)-4-(tert-Butyl-dimethyl-silanyloxy)-2-iodo-butyric acid methyl ester
A solution of 2.89 g (8.85 mmol) of (S)-4-(tert-butyl-dimethyl-silanyloxy)-2-methanesulfonyloxy-butyric acid methyl ester in 90 ml of 2-butanone was treated with 2.65 g (17.70 mmol) of sodium iodide and stirred at 90° C. for 1¼ h. The reaction was cooled, filtered and evaporated. The residue was suspended in dichloromethane treated with Na2SO4 and filtered to give after evaporation 2.94 g (93%) of the title compound as dark brown oil. MS: 343.0 (M-CH3)+.

reactant | (S)-4-(tert-butyl-dimethyl-silanyloxy)-2-methanesulfonyloxy-butyric acid methyl ester | 8.85 mmol, 2.89 g | COC([C@H](CCO[Si](C)(C)C(C)(C)C)OS(=O)(=O)C)=O | C12H26O6SSi
reactant | sodium iodide | 17.70 mmol, 2.65 g | [I-].[Na+]
solvent | 2-butanone | 90 ml | CC(CC)=O | C4H8O
product | (rac)-4-(tert-Butyl-dimethyl-silanyloxy)-2-iodo-butyric acid methyl ester | COC(C(CCO[Si](C)(C)C(C)(C)C)I)=O | C11H23IO3Si
